US07122547B1
Production of N-(indazol-5-yl) N2-(4-pyridylmethyl)-anthranilic acid amide
228 mg of N-(4-pyridylmethyl)-anthranilic acid is introduced into 10 ml of dimethylformamide under argon and in a moisture-free environment. 266 mg of 5-aminoindazole, 0.27 ml of methylmorpholine and 456 mg of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) are added. The mixture is then stirred for 4 hours at room temperature. It is then mixed with dilute sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic phases are washed with water, dried, filtered and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with ethyl acetate as an eluant.

reactant | N-(4-pyridylmethyl)-anthranilic acid | 228 mg | N1=CC=C(C=C1)CNC=1C(C(=O)O)=CC=CC1 | C13H12N2O2
reactant | 5-aminoindazole | 266 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | methylmorpholine | 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 456 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(indazol-5-yl) N2-(4-pyridylmethyl)-anthranilic acid amide | N1N=CC2=CC(=CC=C12)NC(C=1C(NCC2=CC=NC=C2)=CC=CC1)=O | C20H17N5O
